US07662972B2
Step 2: Production of 4-formyl-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide
In a solution of 1.00 g of 4-bromo-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide in 15 ml of tetrahydrofuran under nitrogen atmosphere, 4.7 ml of n-butyl lithium (1.58M hexane solution) was added dropwise at −70° C. with stirring, and then 0.4 ml of N,N-dimethylformamide were added dropwise. After stirring at the same temperature for 30 minutes, 10 ml of 1 N hydrochloric acid and then 30 ml of water were added, and extracted with ethyl acetate (30 ml×2). The organic phase was dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain 0.80 g of the aimed product as pale yellow crystal.

reactant | 4-bromo-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide | 1.00 g | BrC1=CC(=C(C(=O)NCC(F)(F)F)C=C1)C | C10H9BrF3NO
reactant | n-butyl lithium | 1.58M, 4.7 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 4-formyl-2-methyl-N-(2,2,2-trifluoroethyl)benzoic acid amide | 0.80 g | C(=O)C1=CC(=C(C(=O)NCC(F)(F)F)C=C1)C | C11H10F3NO2
